US05223498
React on of 3-methyl-2-morpholinophenyl isothiocyanate (8 g) in ethanol (5 ml) with a saturated solution of ammonia in ethanol (60 ml) at room temperature for 4 hours gave 1-(3-methyl-2-morpholinophenyl)thiourea (m.p. 178°-179° C.).

reactant | 3-methyl-2-morpholinophenyl isothiocyanate | 8 g | CC=1C(=C(C=CC1)N=C=S)N1CCOCC1 | C12H14N2OS
reactant | ammonia | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(3-methyl-2-morpholinophenyl)thiourea | CC=1C(=C(C=CC1)NC(=S)N)N1CCOCC1 | C12H17N3OS
